US05554749
A mixture of ethylenediamine (18.0 g, 0.30 mol) and sodium carbonate (64.0 g, 0.60 mol) in 750 mL of deionized water was heated to 75 C. To the mixture was added p-toluenesulfonyl chloride (125.0 g, 0.66 mol) in 5 g portions over 45 min. Then the reaction was stirred at 75 C. for 15 hours. After the mixture was cooled to 25 C., the white precipitate was filtered, washed with water and dried in a vacuum desiccator at 1 mm to yield 1,4-bis(p-toluenesulfonyl)-1,4-diazabutane (100.1 g, 0.29 mol, 98%).

reactant | ethylenediamine | 0.30 mol, 18.0 g | C(CN)N | C2H8N2
reactant | sodium carbonate | 0.60 mol, 64.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-toluenesulfonyl chloride | 0.66 mol, 125.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 750 mL | O | H2O
product | 1,4-bis(p-toluenesulfonyl)-1,4-diazabutane | 0.29 mol, 100.1 g, 98% | C1(=CC=C(C=C1)S(=O)(=O)NCCNS(=O)(=O)C1=CC=C(C=C1)C)C | C16H20N2O4S2
